US06861419B2
3-[7-(2,4-Dimethoxyphenyl)-2,3,6,7-tetrahydro-[1,4]thiazepin-5-yl]-4-hydroxy-6-methyl-pyran-2-one (63 mg, 0.168 mmol), prepared as in Reference 5, was dissolved in ethylene dichloride (2 mL) and then 4-(dimethylamino)pyridine (0.020 g), di-iso-propylethylamine (0.5 mL) and phosgene (0.4 ml, 2 M in toluene) were added at room temperature. The reaction was monitored by analytical HPLC. After stirring at room temperature for 30 minutes, the solvent was removed in vacuo. Product was purified by HPLC (RPC18 column, 2-70% acetonitrile/water containing 0.1% HCl) to provide 10-(2,4-dimethoxy-phenyl)-3-methyl-7,8-dihydro-10H-2,5-dioxa-9-thia-6a-aza-cyclohepta[a]naphthalene-1,6-dione (20 mg) as an off-white powder. LCMS: M+ 401.0.

reactant | 3-[7-(2,4-Dimethoxyphenyl)-2,3,6,7-tetrahydro-[1,4]thiazepin-5-yl]-4-hydroxy-6-methyl-pyran-2-one | 0.168 mmol, 63 mg | COC1=C(C=CC(=C1)OC)C1CC(=NCCS1)C=1C(OC(=CC1O)C)=O | C19H21NO5S
reactant | di-iso-propylethylamine | 0.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | phosgene | 2 M, 0.4 ml | C(=O)(Cl)Cl | CCl2O
solvent | ethylene dichloride | 2 mL | C(CCl)Cl | C2H4Cl2
catalyst | 4-(dimethylamino)pyridine | 0.020 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 10-(2,4-dimethoxy-phenyl)-3-methyl-7,8-dihydro-10H-2,5-dioxa-9-thia-6a-aza-cyclohepta[a]naphthalene-1,6-dione | 20 mg | COC1=C(C=CC(=C1)OC)C1SCCN2C(C=3C(OC(=CC3OC2=O)C)=O)=C1 | C20H19NO6S
